US09428505B2
To a mixture of 2-((4-bromo-3,5-dimethylphenyl)amino)-2-methyl propanoic acid (5.79 g of the compound obtained from Reaction 1-1) in dichloromethane (62 mL) and acetic acid (62 mL), sodium cyanate (5.03 g, 59.8 mmol) was added at room temperature. The mixture was stirred at room temperature for three hours. A saturated solution of sodium hydrogen carbonate (400 mL) was added to adjust the pH to 7-8 using a 5 N aqueous sodium hydroxide, and this mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained solid was washed sequentially with ethyl acetate-hexane and then with dichloromethane-hexane to obtain 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione (3.80 g, 66%).

reactant | 2-((4-bromo-3,5-dimethylphenyl)amino)-2-methyl propanoic acid | BrC1=C(C=C(C=C1C)NC(C(=O)O)(C)C)C | C12H16BrNO2
reactant | sodium cyanate | 59.8 mmol, 5.03 g | [O-]C#N.[Na+]
reactant | sodium hydrogen carbonate | 400 mL | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
solvent | dichloromethane | 62 mL | ClCCl | CH2Cl2
solvent | acetic acid | 62 mL | C(C)(=O)O | C2H4O2
product | 1-(4-bromo-3,5-dimethylphenyl)-5,5-dimethylimidazolidine-2,4-dione | 3.80 g, 66% | BrC1=C(C=C(C=C1C)N1C(NC(C1(C)C)=O)=O)C | C13H15BrN2O2
